US08580785B2
f) Preparation of 7-amino-8-chloro-quinoxaline-6-carboxylic acid methyl ester
2.07 g (10.2 mmol) 7-amino-quinoxaline-6-carboxylic acid methyl ester and 1.36 g (10.2 mmol) N-chloro-succinimide is suspended in 5 ml DMF and heated at a temperature of 95° C. during 30 min. After cooling, the mixture is poured into 150 ml ice water. The mixture is stirred 15 min and filtered. The compound is dried and crystallised in hexane to give 2.15 g (88%) of the title compound. m.p.: 182-184° C.

reactant | 7-amino-quinoxaline-6-carboxylic acid methyl ester | 10.2 mmol, 2.07 g | COC(=O)C=1C=C2N=CC=NC2=CC1N | C10H9N3O2
reactant | N-chloro-succinimide | 10.2 mmol, 1.36 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 7-amino-8-chloro-quinoxaline-6-carboxylic acid methyl ester | 2.15 g, 88% | COC(=O)C=1C=C2N=CC=NC2=C(C1N)Cl | C10H8ClN3O2
